US07105544B2
N-{6-[1-(3-{[BIS(4-CHLOROPHENYL)ACETYL]AMINO}PROPYL)-4-PIPERIDINYL]-2-PYRIDINYL}-2-METHYLPROPANAMIDE
Example 50 was prepared from bis(4-chlorophenyl)acetic acid and N-{6-[1-(3-aminopropyl)-4-piperidinyl]-2-pyridinyl}-2-methylpropanamide according to the procedures described in Scheme 10: 1H NMR (400 MHz, CDCl3) δ 8.06 (d, 1H, J=8.0 Hz), 7.96 (br s, 1H), 7.77 (s, 1H), 7.64 (t, 1H, J=8.4 Hz), 7.31–7.26 (m, 8H), 6.88 (dd, 1H, J=0.8, 7.6 Hz), 4.84 (s, 1H), 3.39 (dd, 2H, J=5.6, 11.6 Hz), 2.99 (d, 2H, J=11.6 Hz), 2.59 (m, 1H), 2.47 (t, 2H, J=6.0 Hz), 2.28 (m, 1H), 2.07–2.00 (m, 2H), 1.89 (dd, 2H, J=2.0, 12.4 Hz), 1.76–1.67 (m, 4H), 1.14 (d, 6H, J=6.8 Hz); ESMS m/e: 567.3 (M+H)+.

reactant | bis(4-chlorophenyl)acetic acid | ClC1=CC=C(C=C1)C(C(=O)O)C1=CC=C(C=C1)Cl | C14H10Cl2O2
reactant | N-{6-[1-(3-aminopropyl)-4-piperidinyl]-2-pyridinyl}-2-methylpropanamide | NCCCN1CCC(CC1)C1=CC=CC(=N1)NC(C(C)C)=O | C17H28N4O
product | N-{6-[1-(3-{[BIS(4-CHLOROPHENYL)ACETYL]AMINO}PROPYL)-4-PIPERIDINYL]-2-PYRIDINYL}-2-METHYLPROPANAMIDE | ClC1=CC=C(C=C1)C(C(=O)NCCCN1CCC(CC1)C1=CC=CC(=N1)NC(C(C)C)=O)C1=CC=C(C=C1)Cl | C31H36Cl2N4O2
